US07378420B2
Synthesis of 4-Benzhydryl-piperazine-1-carboxylic acid benzhydryl amide
To a solution of diphenylmethyl piperazine (0.3 g, 1.18 mmol) in dry CH2Cl2 (10 ml) was added diphenylmethyl isocyanate (0.22 ml, 1.18 mmol) drop wise under nitrogen. The resulting mixture was stirred at room temperature over night. Removal of solvent under reduced pressure followed by column chromatography using hexane:ethyl acetate (3:1) gives the desired product in 80% yield.

reactant | diphenylmethyl piperazine | 1.18 mmol, 0.3 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | diphenylmethyl isocyanate | 1.18 mmol, 0.22 ml | C1(=CC=CC=C1)C(C1=CC=CC=C1)N=C=O | C14H11NO
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-Benzhydryl-piperazine-1-carboxylic acid benzhydryl amide | 80% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=O)N1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C31H31N3O
